US06008229
To a mixture of 2-aminomethyl-1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)pyrrole (87 mg) and pyridine (20.3 mg) in dichloromethane (1 ml) was added acetic anhydride (20.9 mg) under ice-cooling, and the mixture was stirred for 3 hours at ambient temperature. The mixture was poured into water and extracted with dichloromethane. The organic layer was washed with 1N hydrochloric acid, water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo to give 2-acetamidomethyl-1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)pyrrole (94 mg) as amorphous powder.

reactant | 2-aminomethyl-1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)pyrrole | 87 mg | NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C28H30Cl2N2OSi
reactant | pyridine | 20.3 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 20.9 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-acetamidomethyl-1-(3-tert-butyldiphenylsilyloxymethyl-2,4-dichlorophenyl)pyrrole | 94 mg | C(C)(=O)NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C30H32Cl2N2O2Si
